US05108634
A lubricating oil composition comprising, as essential components, (A) 100 parts by weight of a base oil having a kinematic viscosity at 40° C. of 5 to 500 cSt, a pour point of -30° C. or lower, a cloud point of -20° C. or lower and a viscosity index of 70 or more, and (B) 0.01 to 5 parts by weight of at least one alkyl group-substituted phenol compound having a melting point of 20° C. or lower selected from the group consisting of 2,2'-methylenebis(4-methyl-6-nonylphenol); 2,6-bis(2-hydroxy-3-nonyl-5-methylbenzyl)p-cresol; and p-nonylphenol in which the nonyl group is formed by removing a hydrogen from propylene trimer.

reactant | 2,2'-methylenebis(4-methyl-6-nonylphenol) | C(C1=C(C(=CC(=C1)C)CCCCCCCCC)O)C1=C(C(=CC(=C1)C)CCCCCCCCC)O | C33H52O2
reactant | 2,6-bis(2-hydroxy-3-nonyl-5-methylbenzyl)p-cresol | OC1=C(CC2=CC(=CC(=C2O)CC2=C(C(=CC(=C2)C)CCCCCCCCC)O)C)C=C(C=C1CCCCCCCCC)C | C41H60O3
product | p-nonylphenol | C(CCCCCCCC)C1=CC=C(C=C1)O | C15H24O
